US05212187
N-[5-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]pentyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea
Preparation is effected analogously to Example 63, using 1.29 g (3.6 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,5-pentanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 1.04 g (4.2 mmol) of 3-[3-(piperidinomethyl)phenoxy]propaneamine as starting materials. Working up by chromatography (eluant: methylene chloride) analogously to Example 63 yields the purified title compound in the form of an oil; MS (+EI-80 eV): m/z (rel. int.[%])=619 ([M])+.,<1), 230 (17) 203 (100); IR (KBr): 1634 cm-1 (C≡0).

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,5-pentanediamine | 3.6 mmol, 1.29 g | ClC1=CC=C(C=C1)C(CCN(CCCCCN)C)C1=NC=CC=C1 | C20H28ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[3-(piperidinomethyl)phenoxy]propaneamine | 4.2 mmol, 1.04 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[5-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]pentyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCCCCNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C1=NC=CC=C1 | C36H50ClN5O2
